* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Controller.asc
R+_div2 tap2 N004 1Meg
R-_div2 N004 0 10k
V§Batt1 0 -batt 14.525
R_inTriang N005 N003 390
C_fbTriang N003 triang 10µ Rser=20m
V§Batt2 +batt 0 14.525
V4 N008 N009 SINE(0 {V*sqrt(2)} 60 0)
D2 tap1 Vodc 1N5819
C3 Vodc 0 330µ
R+_div1 tap1 N007 1Meg
R_fbTriang N003 triang 4.7k
XU2 0 N003 +batt -batt triang LF353/NS
XU1 N004 N007 +batt -batt N005 LF353/NS
R-_div1 N007 0 10k
R1 Vodc 0 11.066
L1 N008 N009 10 Rser=1m
L2 tap1 0 100m Rser=1m
L3 0 tap2 100m Rser=1m
D1 tap2 Vodc 1N5819
D3 batt- tap2 1N5819
C1 batt- 0 220µ
D4 tap1 batt+ 1N5819
C4 batt+ 0 220µ
XU3 triang N001 +batt -batt N006 LF353/NS
R2 N002 N001 1
C2 N002 N006 1µ
R3 0 N001 1
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.
*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the
*  material is illegal
*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com
* ///////////////////////////////////////////////////////////////////
* User Notes:
*
* 1. Input resistance (Rin) for these JFET op amps is 1TOhm.  Rin is
*    modeled by assuming the option GMIN=1TOhm.  If a different (non-
*    default) GMIN value is needed, users may recalculate as follows:
*    Rin=(R1||GMIN+R2||GMIN), where R1=R2,
*    to maintain a consistent Rin model.
*//////////////////////////////////////////////////////////
*LF353 Wide Bandwidth Dual JFET-Input OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF353/NS  1   2  99  50  28
*
*Features:
*Low supply current =                1.8mA
*Wide bandwidth =                     4MHz
*High slew rate =                   13V/uS
*Low offset voltage =                 10mV
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*
****************INPUT STAGE**************
*
IOS 2 1 25P
*^Input offset current
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 100U
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 20K
R4 6 50 20K
*Fp2=12 MHz
C4 5 6 3.31573E-13
*
***********COMMON MODE EFFECT***********
*
I2 99 50 1.7MA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 5E-3 1
*Input offset voltage.^
R8 99 49 50K
R9 49 50 50K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
F1 9 98 POLY(1) VA3 0 0 0 1.0985E7
G1 98 9 5 6 1E-3
R5 98 9 100MEG
VA3 9 11 0
*Fp1=40.3 HZ
C3 98 11 39.493P
*
***************POLE STAGE***************
*
*Fp3=42 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 3.7894E-15
*
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 31.831M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 35
V5  28 25 0.1V
D4  25 15 DX
V4  24 28 0.1V
D3  15 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.25E-5 VTO=-2.00 IS=50E-12)
*
.ENDS
*$
.tran 0 600m 500m
K1 L1 L2 L3 1
.param V = 120*0.95
* Se utilizan -batt y + batt para reducir tiempo de simulación
.backanno
.end
